US07012077B2
A solution of 2.47 g (8.62 mmol) of trans-4-[(5-Bromo-pyrimidin-2-yl)-methyl-amino]-cyclohexanol, 5.53 g (25.86 mmol) of trans-1,4-dibromo-2-butene and 0.87 g (2.57 mmol, 0.3 eq) tetrabutylammoniumhydrogensulfate in 55 ml CH2Cl2 were treated with 55 ml of 50% aqueous NaOH. The mixture was stirred at RT for 40 h, 2.76 g (12.93 mmol) of trans-1,4-dibromo-2-butene were added and stirred for further 60 h. Then CH2Cl2 was added and the layers were separated. The inorganic layer was extracted with CH2Cl2 (3×), the combined organic layers washed with brine and dried over Na2SO4. The residue was purified by column chromatography on silica gel with hexane:EtOAc (9:1 to 2:1) as eluent yielding 0.8 g (22%) trans-(2E)-[4-(4-Bromo-but-2-enyloxy)-cyclohexyl]-(5-bromo-pyrimidin-2-yl)-methyl-amine as light yellow solid, MS: 418 (MH+, 2Br).

reactant | trans-4-[(5-Bromo-pyrimidin-2-yl)-methyl-amino]-cyclohexanol | 8.62 mmol, 2.47 g | BrC=1C=NC(=NC1)N([C@@H]1CC[C@H](CC1)O)C | C11H16BrN3O
reactant | trans-1,4-dibromo-2-butene | 25.86 mmol, 5.53 g | BrC\C=C\CBr | C4H6Br2
reactant | NaOH | 55 ml | [OH-].[Na+]
reactant | trans-1,4-dibromo-2-butene | 12.93 mmol, 2.76 g | BrC\C=C\CBr | C4H6Br2
catalyst | tetrabutylammoniumhydrogensulfate | 2.57 mmol, 0.87 g, 0.3 eq | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | CH2Cl2 | 55 ml | C(Cl)Cl | CH2Cl2
product | trans-(2E)-[4-(4-Bromo-but-2-enyloxy)-cyclohexyl]-(5-bromo-pyrimidin-2-yl)-methyl-amine | 0.8 g, 22% | BrC/C=C/CO[C@@H]1CC[C@H](CC1)N(C)C1=NC=C(C=N1)Br | C15H21Br2N3O
